US06696595B2
30 g of 2-adamantanone was dissolved in tetrahydrofuran anhydride. Then, 200 ml of solution of methyl magnesium bromide dissolved in tetrahydrofuran in an amount of 1 mol/liter was added thereto at room temperature. After 3 hours, 5 g of pyridine was added, 26 g of methacrylic acid chloride was then added, and the resulting mixture was stirred at 50° C. for 3 hours. After the obtained reaction mixture was concentrated, hexane and a 1N ammonium chloride solution were added to the mixture, and the resulting mixture was shaken to separate an organic phase. Then, the organic phase was washed with a 5% sodium hydroxide solution and then with water, and it was confirmed that the pH of an aqueous phase became 8. The washed organic phase was concentrated so as to obtain crude 2-methyl-2-adamantyl methacrylate containing 90% by weight of 2-methyl-2-adamantyl methacrylate.

reactant | 2-adamantanone | 30 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | methyl magnesium bromide | C[Mg]Br
reactant | pyridine | 5 g | N1=CC=CC=C1 | C5H5N
reactant | methacrylic acid chloride | 26 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-methyl-2-adamantyl methacrylate | C(C(=C)C)(=O)OC1(C2CC3CC(CC1C3)C2)C | C15H22O2
